US04788130
23.0 Grams of 2,3-dihydro-2,4,6-trimethyl-7-methoxy-2-benzyl-1H-inden-1-one and 25.8 g of sodium iodide were dissolved in 90 ml of acetonitrile. To this solution was added 22.9 g of aluminium chloride at room temperature and stirred for 1 hour. Then the solvent was removed by evaporation under a reduced pressure, and the residue thus obtained was extracted with ethyl acetate. The extract was washed with an aqueous solution saturated with sodium chloride, an aqueous solution of sodium thiosulfate and an aqueous solution saturated with sodium chloride in this order, and the insoluble matters were removed by filtration. The solvent was removed by evaporation and the residue thus obtained was recrystallized from n-hexane to obtain 19.7 g of 2,3-dihydro-2,4,6-trimethyl-7-hydroxy-2-benzyl-1H-indene-1-one. Colorless prism-like crystals.

reactant | 2,3-dihydro-2,4,6-trimethyl-7-methoxy-2-benzyl-1H-inden-1-one | CC1(C(C2=C(C(=CC(=C2C1)C)C)OC)=O)CC1=CC=CC=C1 | C20H22O2
reactant | sodium iodide | 25.8 g | [I-].[Na+]
reactant | aluminium chloride | 22.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 2,3-dihydro-2,4,6-trimethyl-7-hydroxy-2-benzyl-1H-indene-1-one | 19.7 g | CC1(C(C2=C(C(=CC(=C2C1)C)C)O)=O)CC1=CC=CC=C1 | C19H20O2
